US04154851
Step C -- 7- oxo 10- methyl undecanoic acid
10 g of 2-(4'-methyl valeryl) cyclohexanone are added to 70ml of a 5% aqueous solution of sodium hydroxide. The mixture is heated under reflux for 2 hours. The aqueous solution is then made acidic with a 4 N solution of hydrochloric acid and is extracted with ether. The ethereous phase is separated, is washed with a saturated solution of sodium chloride, is dried on sodium sulphate, is filtered and is evaporated to dryness. The solid residue weighing 9g is left to stand at room temperature. The crystallization begins quickly. The crystals are recovered and are recrystallized from n- pentane (yield 6.2g).

reactant | 2-(4'-methyl valeryl) cyclohexanone | 10 g | CC(CCC(=O)C1C(CCCC1)=O)C | C12H20O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 7- oxo 10- methyl undecanoic acid | O=C(CCCCCC(=O)O)CCC(C)C | C12H22O3
